US07737141B2
In nitrogen atmosphere, trimethylsilyl iodide (0.74 mL) was added to a methylene chloride solution (25 mL) of (6S,9aR)-6-(4-chlorophenyl)-octahydroquinolizin-4-one (877 mg) and N,N,N′,N′-tetramethylethylenediamine (1.76 mL) at 0° C. The resulting reaction solution was stirred at 0° C. for 30 min, and then iodine (1.26 g) was added thereto at 0° C. The resulting reaction solution was stirred at 0° C. for 1 hr, and a sodium thiosulfate aqueous solution and ethyl acetate were added thereto. The organic layer was separated, washed with saturated saline, dried over magnesium sulfate, and concentrated under reduced pressure to give (6S,9aR)-6-(4-chlorophenyl)-3-iodooctahydroquinolizin-4-one. A mixture of the (6S,9aR)-6-(4-chlorophenyl)-3-iodooctahydroquinolizin-4-one and triethyl phosphite (10 mL) was stirred at 120° C. for 2 hr. This reaction solution was allowed to cool to room temperature and then concentrated under reduced pressure to give [(6S,9aR)-6-(4-chlorophenyl)-4-oxooctahydroquinolizin-3-yl]phosphonic acid diethyl ester. To a solution mixture of tetrahydrofuran (21 mL) and ethanol (7 mL) of the [(6S,9aR)-6-(4-chlorophenyl)-4-oxooctahydroquinolizin-3-yl]phosphonic acid diethyl ester and 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (869 mg), lithium hydroxide monohydrate (422 mg) was added. The resulting reaction solution was stirred at room temperature for 2 hr, and then ethyl acetate and a saturated sodium hydrogencarbonate aqueous solution were added thereto. The organic layer was separated, washed with saturated saline, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH, eluting solvent: heptane-ethyl acetate system) and then by silica gel column chromatography (eluting solvent: heptane-ethyl acetate system and then ethyl acetate-methanol system) to give 1.07 g of the title compound. The physical property values of this compound were as follows:

reactant | (6S,9aR)-6-(4-chlorophenyl)-3-iodooctahydroquinolizin-4-one | ClC1=CC=C(C=C1)[C@H]1N2C(C(CC[C@H]2CCC1)I)=O | C15H17ClINO
reactant | triethyl phosphite | 10 mL | P(OCC)(OCC)OCC | C6H15O3P
product | [(6S,9aR)-6-(4-chlorophenyl)-4-oxooctahydroquinolizin-3-yl]phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C1CC[C@H]2CCC[C@H](N2C1=O)C1=CC=C(C=C1)Cl | C19H27ClNO4P
